US05102877
To a solution of 4-nitrobenzyl (5R,6S)-3-(1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (500 mg) in 0.1M phosphate buffer (pH 6.93, 20 ml) was added 20% (W/W) palladium on carbon (50% wet) and the solution was stirred under atmospheric pressure of hydrogen at ambient temperature for 5 hours. The catalyst was filtered off and the filtrate was concentrated in vacuo to give a residual solution, which was chromatographed on "Diaion HP-20" (100 ml) eluting in turn with water and a mixture of water and acetone (50:1-20:1, V/V). The fractions containing the desired compound were collected and lyophilized to give (5R,6S)-6-[(1R)-1-hydroxyethyl]-7-oxo-3-(piperidin-4-yl)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (150 mg).

reactant | 4-nitrobenzyl (5R,6S)-3-(1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 500 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(=CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C29H29N3O8
reactant | hydrogen | [H][H] | H2
solvent | phosphate | 0.1M, 20 ml, pH 6.93 | P(=O)([O-])([O-])[O-]
catalyst | palladium on carbon | [Pd] | Pd
product | (5R,6S)-6-[(1R)-1-hydroxyethyl]-7-oxo-3-(piperidin-4-yl)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 150 mg | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)C1CCNCC1 | C14H20N2O4
